**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Common Mode Power Line Choke 
* Matchcode:              WE-FCLP
* Library Type:           Pspice
* Version:                rev25a
* Created/modified by:    Ella      
* Date and Time:          2025-07-09
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt FCLP_744869161063 1 2 3 4
X1  1  2  3  4  FCLP  PARAMS:
+  DL3=6.9998u
+  DL4=5.1029u
+  DC3=499.9756f
+  DC4=3.0797p
+  DR3=199.9994
+  DR4=149.9992
+  DR5=130.0131
+  DR6=229.9957k
+  Rdc=220m
+  ck=10.0003f
+  L1=3.7846m
+  L2=3.8058m
+  L3=49.9972n
+  L4=14.9906n
+  L5=12.9888n
+  C1=4.5945p
+  C2=40.7965p
+  RS1=50.0030k
+  RS2=60.0019k
+  RS3=9.9999k
+  RS4=9.9999k
+  RS5=199.9993
+  R2=999.9855m
.ends FCLP_744869161063
****
.subckt FCLP_744869161103 1 2 3 4
X1  1  2  3  4  FCLP  PARAMS:
+  DL3=6.9974u
+  DL4=9.1969u
+  DC3=499.6828f
+  DC4=6.1732p
+  DR3=199.9920
+  DR4=50.0125
+  DR5=126.0908
+  DR6=330.3462k
+  Rdc=330m
+  ck=10.4311f
+  L1=6.2807m
+  L2=6.2807m
+  L3=50.0182n
+  L4=15.0615n
+  L5=23.0402n
+  C1=7.3975p
+  C2=12.0774p
+  RS1=109.7094k
+  RS2=109.7094k
+  RS3=10.0009k
+  RS4=10.0009k
+  RS5=10.0009
+  R2=1.0001
.ends FCLP_744869161103
****
.subckt FCLP_744869161104 1 2 3 4
X1  1  2  3  4  FCLP  PARAMS:
+  DL3=1.9974u
+  DL4=106.1830u
+  DC3=1.2827p
+  DC4=6.1799p
+  DR3=199.9920
+  DR4=550.0125
+  DR5=126.0910
+  DR6=330.3458k
+  Rdc=3.47
+  ck=10.4320f
+  L1=51.9145m
+  L2=52.0497m
+  L3=49.9873n
+  L4=14.9576n
+  L5=22.9724n
+  C1=8.7363p
+  C2=7.9992p
+  RS1=2.7997meg
+  RS2=1.9994meg
+  RS3=9.9994k
+  RS4=9.9994k
+  RS5=99.9936
+  R2=999.9368m
.ends FCLP_744869161104
****
.subckt FCLP_744869161153 1 2 3 4
X1  1  2  3  4  FCLP  PARAMS:
+  DL3=6.9974u
+  DL4=13.0044u
+  DC3=499.6839f
+  DC4=6.1681p
+  DR3=199.9920
+  DR4=50.0125
+  DR5=126.0892
+  DR6=530.3462k
+  Rdc=550m
+  ck=10.4308f
+  L1=9.0503m
+  L2=8.7769m
+  L3=49.9999n
+  L4=14.9994n
+  L5=32.9996n
+  C1=7.6641p
+  C2=24.9996p
+  RS1=161.5466k
+  RS2=161.4491k
+  RS3=10.0000k
+  RS4=10.0000k
+  RS5=99.9999
+  R2=999.9950m
.ends FCLP_744869161153
****
.subckt FCLP_744869161273 1 2 3 4
X1  1  2  3  4  FCLP  PARAMS:
+  DL3=9.9974u
+  DL4=20.5623u
+  DC3=499.6746f
+  DC4=4.2938p
+  DR3=199.9918
+  DR4=50.0125
+  DR5=126.1238
+  DR6=800.3462k
+  Rdc=1
+  ck=10.4481f
+  L1=15.6638m
+  L2=15.6638m
+  L3=50.0003n
+  L4=15.0011n
+  L5=23.0007n
+  C1=4.9803p
+  C2=20.0009p
+  RS1=279.9998k
+  RS2=279.9998k
+  RS3=10.0000k
+  RS4=12.0000k
+  RS5=200.0000
+  R2=1
.ends FCLP_744869161273
****
.subckt FCLP_744869161393 1 2 3 4
X1  1  2  3  4  FCLP  PARAMS:
+  DL3=12.9896u
+  DL4=31.7777u
+  DC3=499.6542f
+  DC4=7.3432p
+  DR3=199.9913
+  DR4=50.0125
+  DR5=126.1353
+  DR6=800.3454k
+  Rdc=1.43
+  ck=10.4489f
+  L1=21.7844m
+  L2=19.7624m
+  L3=50.0004n
+  L4=15.0015n
+  L5=93.0002n
+  C1=8.4862p
+  C2=60.0004p
+  RS1=469.9974k
+  RS2=559.9986k
+  RS3=50.0000k
+  RS4=10.0000k
+  RS5=700.0000
+  R2=1
.ends FCLP_744869161393
****
.subckt FCLP_744869161473 1 2 3 4
X1  1  2  3  4  FCLP  PARAMS:
+  DL3=15.9895u
+  DL4=40.7332u
+  DC3=499.6540f
+  DC4=6.2790p
+  DR3=199.9913
+  DR4=50.0125
+  DR5=126.1446
+  DR6=800.3446k
+  Rdc=1.63
+  ck=10.4327f
+  L1=25.5561m
+  L2=25.5578m
+  L3=49.9981n
+  L4=14.9937n
+  L5=22.9959n
+  C1=7.3369p
+  C2=6.9999p
+  RS1=739.9991k
+  RS2=699.9990k
+  RS3=50.0000k
+  RS4=9.9999k
+  RS5=99.9991
+  R2=999.9906m
.ends FCLP_744869161473
****
.subckt FCLP_744869161683 1 2 3 4
X1  1  2  3  4  FCLP  PARAMS:
+  DL3=15.9913u
+  DL4=65.2825u
+  DC3=499.6597f
+  DC4=4.2115p
+  DR3=199.9914
+  DR4=50.0125
+  DR5=126.1470
+  DR6=450.3433k
+  Rdc=2.56
+  ck=10.4181f
+  L1=34.5728m
+  L2=31.5517m
+  L3=50.0023n
+  L4=15.0075n
+  L5=23.0049n
+  C1=6.9692p
+  C2=7.0002p
+  RS1=3.0000meg
+  RS2=5.0000meg
+  RS3=50.0000k
+  RS4=10.0001k
+  RS5=40
+  R2=1
.ends FCLP_744869161683
****
.SUBCKT  FCLP    1  2  3  4  PARAMS:
+  DL3=6.9974u
+  DL4=9.1969u
+  DC3=499.6828f
+  DC4=6.1732p
+  DR3=199.9920
+  DR4=50.0125
+  DR5=126.0908
+  DR6=330.3462k
+  Rdc=330m
+  ck=10.4311f
+  L1=6.2807m
+  L2=6.2807m
+  L3=50.0182n
+  L4=15.0615n
+  L5=23.0402n
+  C1=7.3975p
+  C2=12.0774p
+  RS1=109.7094k
+  RS2=109.7094k
+  RS3=10.0009k
+  RS4=10.0009k
+  RS5=10.0009
+  R2=1.0001 
R_R9 N12325 4 {R2}
R_R8 N13265 N13287 {Rs4}
R_R3 N12571 N12583 {Rs3}
R_R10 N13777 3 {R2}
C_C10 N13029 N12821 {ck}
R_R20 N13215 N13229 {dR4}
L_L11 N12821 N12295 {dL4}
R_R17 N12267 N12273 {dR3}
L_L8 N13265 N13287 {L4}
R_R7 N13287 N13305 {Rs3}
L_L9 N12295 N12307 {L5}
R_R2 N12583 N12599 {Rs2}
R_R16 N13229 N13249 {dR6}
C_C5 N12273 N12289 {dC4}
L_L6 N13287 N13305 {L3}
L_L7 N12307 N12571 {L4}
R_R6 N13305 N13319 {Rs2}
R_R21 1 N12257 {Rdc}
L_L16 N12257 N12799 {dL3}
C_C8 N13215 N13741 {dC3}
L_L18 N13023 N13215 {dL3}
R_R1 N12599 4 {Rs1}
R_R13 N12289 N12295 {dR5}
L_L4 N13305 N13319 {L2}
L_L5 N12571 N12583 {L3}
R_R15 N13755 N13249 {dR5}
R_R5 N13319 3 {Rs1}
R_R18 N12257 N12273 {dR4}
R_R19 N13741 N13229 {dR3}
L_L15 N12799 N12273 {dL3}
L_L17 N13229 N13023 {dL3}
L_L3 N12583 N12599 {L2}
R_R11 N12295 N12307 {Rs5}
L_L2 N13319 3 {L1}
C_C4 N13249 N13265 {C2}
L_L10 N13249 N13265 {L5}
R_R14 N12273 N12295 {dR6}
C_C6 N13229 N13755 {dC4}
L_L12 N12273 N12821 {dL4}
L_L14 N13029 N13229 {dL4}
L_L1 N12599 4 {L1}
C_C1 N12307 N12325 {C1}
R_R12 N13249 N13265 {Rs5}
C_C2 N13265 N13777 {C1}
R_R22 2 N13215 {Rdc}
C_C9 N13023 N12799 {ck}
R_R4 N12307 N12571 {Rs4}
C_C3 N12295 N12307 {C2}
L_L13 N13249 N13029 {dL4}
C_C7 N12257 N12267 {dC3}
Kn_K6a  L_L11  L_L12  0.9999
Kn_K6b  L_L11  L_L13  0.9999
Kn_K6c  L_L11  L_L14  0.9999
Kn_K6d  L_L12  L_L13  0.9999
Kn_K6e  L_L12  L_L14  0.9999
Kn_K6f  L_L13  L_L14  0.9999
Kn_K4  L_L7  L_L8  1
Kn_K5  L_L9  L_L10  1
Kn_K7a  L_L15  L_L16  0.9999
Kn_K7b  L_L15  L_L17  0.9999
Kn_K7c  L_L15  L_L18  0.9999
Kn_K7d  L_L16  L_L17  0.9999
Kn_K7e  L_L16  L_L18  0.9999
Kn_K7f  L_L17  L_L18  0.9999
Kn_K3  L_L5  L_L6  1
Kn_K2  L_L3  L_L4  1
Kn_K1  L_L1  L_L2  1
.ends  FCLP
****